US06339154B1
(2) 2-[2-(4-Methylpiperazino)-2-oxoethyl]phenyl N-octadecylcarbamate
Triethylamine (1.06 ml) and octadecyl isocyanate (2.35 ml) were added to a solution containing 2-(2-hydroxyphenyl)-1-(4-methylpiperazino)-1-ethanone (1.60 g) in methylene chloride (16 ml) and stirred for 15.5 hours at room temperature. The insoluble matters were filtrated out and washed with chloroform. The filtrate and washings were combined and the mixture was washed with saturated sodium hydrogencarbonate aqueous solution and brine successively, dried over sodium sulfate anhydride, and concentrated. The residue was purified by silica gel column chromatography (silica gel 100 g, chloroform:methanol=50:1 to 30:1), thereby yielding the entitled compound (3.23 g) as white solid.

reactant | Triethylamine | 1.06 ml | C(C)N(CC)CC | C6H15N
reactant | octadecyl isocyanate | 2.35 ml | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | 2-(2-hydroxyphenyl)-1-(4-methylpiperazino)-1-ethanone | 1.60 g | OC1=C(C=CC=C1)CC(=O)N1CCN(CC1)C | C13H18N2O2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Methylpiperazino)-2-oxoethyl]phenyl N-octadecylcarbamate | 3.23 g | C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CC(=O)N1CCN(CC1)C)=O | C32H55N3O3
